US08053574B2
Step 3: N-(6-Bromo-imidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoro-acetamide.
Trifluoroacetic anhydride (100 ml) is added slowly to a stirred suspension of 2-{5-bromo-2-[(Z)-toluene-4-sulfonylimino]-2H-pyridin-1-yl}-acetamide (20 g, 52 mmol) in anhydrous dichloromethane (250 ml). The reaction is heated at reflux for 3 hours and then allowed to cool to room temperature. The solvent is removed in vacuo to afford a yellow solid consisting of the tosic acid salt of the title compound. The solid is suspended in aqueous sodium bicarbonate solution and stirred for 15 minutes followed by filtration to provide the title compound. 1H nmr (CDCl3): 7.37 (1H, d), 7.43 (1H, d), 8.15 (1H, s), 8.43 (1H, s), 10.2 (1H, s).

reactant | Trifluoroacetic anhydride | 100 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-{5-bromo-2-[(Z)-toluene-4-sulfonylimino]-2H-pyridin-1-yl}-acetamide | 52 mmol, 20 g | BrC=1C=C/C(/N(C1)CC(=O)N)=N/S(=O)(=O)C1=CC=C(C=C1)C | C14H14BrN3O3S
reactant | tosic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-(6-Bromo-imidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoro-acetamide | BrC=1C=CC=2N(C1)C=C(N2)NC(C(F)(F)F)=O | C9H5BrF3N3O
